US07855216B2
3-(4-Bromo-2-chloro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A degassed solution of 1-methyl-3-(nonafluorobutane-1-sulfonyloxy)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (500 mg, 0.99 mmol), 4-bromo-2-chloroaniline (246 mg, 1.19 mmol), Pd2dba3 (91 mg, 0.10 mmol), Xantphos (114 mg, 0.20 mmol) and DBU (352 μl, 2.48 mmol) in toluene (8 ml) was subjected to microwave irradiation at 120° C. for 5 minutes. The reaction mixture was cooled to ambient temperature then diluted with ethyl acetate (100 ml). The resultant solution was washed with water (30 ml), dried (Na2SO4) and concentrated in vacuo to give an oil. The oil was purified by flash chromatography (Si-PPC, cyclohexane:ethyl acetate, gradient 90:10 to 0:100) to afford the title compound as a yellow solid (140 mg, 35%). 1H NMR (CDCl3, 400 MHz) 8.75 (d, J=1.0 Hz, 1H), 8.41 (d, J=6.1 Hz, 1H), 7.68 (s, 1H), 7.54 (d, J=2.3 Hz, 1H), 7.19-7.27 (m, 2H), 6.94 (d, J=8.8 Hz, 1H), 4.44 (q, J=7.2 Hz, 2H), 3.99 (s, 3H), 1.44 (t, J=7.2 Hz, 3H).

reactant | 1-methyl-3-(nonafluorobutane-1-sulfonyloxy)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.99 mmol, 500 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C15H11F9N2O5S
reactant | 4-bromo-2-chloroaniline | 1.19 mmol, 246 mg | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | Xantphos | 0.20 mmol, 114 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | DBU | 2.48 mmol, 352 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd2dba3 | 0.10 mmol, 91 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-Bromo-2-chloro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 140 mg, 35% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)Br)Cl | C17H15BrClN3O2
